US06696464B2
A) 6-Chloro-N-methoxy-N-methyl-nicotinamide
To a solution of 6-chloronicotine carboxylic acid (40 g, 284 mmol) in dichloromethane (500 mL) was added 5 mL of N,N-dimethylformamide (DMF). At ambient temperature, a 2 M solution of oxalyl chloride in dichloromethane (167 mL, 330 mmol) was added dropwise. The reaction mixture was heated to 40° C. for two hours and then stirred at room temperature for 18 hours. The acid chloride solution was concentrated in vacuo, and placed under vacuum for one hour. To a solution of N,O-dimethylhydroxylamine hydrochloride (32 g, 330 mmol) in dichloromethane (400 mL) was added triethylamine (70 mL); the mixture was then cooled to 0° C. A solution of the previously formed acid chloride in dichloromethane (100 mL) was added dropwise at a rate keeping the temperature at 0° C. After the addition, the ice bath was removed and the reaction mixture was allowed to warm to room temperature and stirred for 20 hours. The reaction mixture was then layered with saturated sodium hydrogenphosphate and the organic layer was extracted, washed with water, brine, dried with sodium sulfate and filtered. The solution was concentrated in vacuo yielding the title compound (48.9 g, 96%).

reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 330 mmol, 32 g | Cl.CNOC
reactant | triethylamine | 70 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 330 mmol, 167 mL | ClCCl | CH2Cl2
product | 6-Chloro-N-methoxy-N-methyl-nicotinamide | 48.9 g, 96% | ClC1=NC=C(C(=O)N(C)OC)C=C1 | C8H9ClN2O2
